US06159996
3-Methyl-2-methylimino-5-methylsulfonyl-6-phenylthio-2,3,8,8a-tetrahydro-indeno[1,2-d]thiazol-3a-ol
3-Methyl-2-methylimino-5-methylsulfonyl-6-phenylthio-2,3,8,8a-tetrahydroindeno[1,2-d]thiazol-3a-ol 3-Methyl-2-methylimino-5-methylsulfonyl-6-phenylthio-2,3,8,8a-tetra-hydroindeno[1,2-d]thiazol-3a-ol hydrobromide is suspended in methanol and treated with a 3-fold molar excess of triethylamine. The resulting solution is filtered and crystallized by trituration with a glass rod. Colorless crystalline compound, melting point with decomposition 142-143° C.

reactant | 3-Methyl-2-methylimino-5-methylsulfonyl-6-phenylthio-2,3,8,8a-tetrahydroindeno[1,2-d]thiazol-3a-ol 3-Methyl-2-methylimino-5-methylsulfonyl-6-phenylthio-2,3,8,8a-tetra-hydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.CN1C(SC2C1(C=1C=C(C(=CC1C2)SC2=CC=CC=C2)S(=O)(=O)C)O)=NC.CN2C(SC1C2(C=2C=C(C(=CC2C1)SC1=CC=CC=C1)S(=O)(=O)C)O)=NC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 3-Methyl-2-methylimino-5-methylsulfonyl-6-phenylthio-2,3,8,8a-tetrahydro-indeno[1,2-d]thiazol-3a-ol | CN1C(SC2C1(C=1C=C(C(=CC1C2)SC2=CC=CC=C2)S(=O)(=O)C)O)=NC | C19H20N2O3S3
